US06825191B2
Step 1: Synthesis of Ethyl ((4-chlorobenzoyl)-(4-(2-(diethoxyphosphoryl)vinyl)-2-nitrobenzyl)amino)acetate
580 mg (1.27 mmol) of ethyl [(2-nitro-4-bromobenzyl)-(4-chlorobenzoyl)amino]acetate, 28 mg (0.13 mmol) of palladium acetate, 0.23 ml (1.6 mmol) of diethylvinyl phosphonate, 233 mg (0.89 mmol) of triphenylphosphine and 0.35 ml (2.5 mmol) of triethylamine were dissolved in 10 ml of DMF. They were stirred at 100° C. for 4 hours. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the crude product was obtained. The crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | ethyl [(2-nitro-4-bromobenzyl)-(4-chlorobenzoyl)amino]acetate | 1.27 mmol, 580 mg | [N+](=O)([O-])C1=C(CN(C(C2=CC=C(C=C2)Cl)=O)CC(=O)OCC)C=CC(=C1)Br | C18H16BrClN2O5
reactant | diethylvinyl phosphonate | 1.6 mmol, 0.23 ml | P(OC=C(CC)CC)([O-])=O
reactant | triphenylphosphine | 0.89 mmol, 233 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 2.5 mmol, 0.35 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.13 mmol, 28 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl ((4-chlorobenzoyl)-(4-(2-(diethoxyphosphoryl)vinyl)-2-nitrobenzyl)amino)acetate | ClC1=CC=C(C(=O)N(CC2=C(C=C(C=C2)C=CP(=O)(OCC)OCC)[N+](=O)[O-])CC(=O)OCC)C=C1 | C24H28ClN2O8P
